Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
depression / SI
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Per Dr. ___ Consult note from
___:

___ y/o F BU student with h/o
depression and anxiety, no prior psychiatric admissions or
suicide attempts, sent to ___ on a ___ by outpatient
therapist after reporting worsening SI with plan and intent at
intake appointment today. 

On interview, pt reports experiencing an urgency to "not be 
here"
anymore. She ___ h/o passive suicidal ideation but experienced
these thoughts more acutely over the past few days. She 
describes
main stressor as social. Reports h/o intense feelings in
relationships associated with highs and lows. She describes a
recent social stressor contributing to current symptoms.

In reviewing her history, pt reports h/o depressed mood for the
past ___. Mood is typically worse in the summers when she ___
less structure. She also ___ been feeling more down recently 
with
change in season. She can experience relief from these symptoms
i.e. doing an activity with friends for a few hours. At other
times she feels down most of the day, low energy, spends time in
bed. 

On further psych ROS, pt denies h/o discrete periods of 
decreased
need for sleep, increased energy, activity c/w mania. She denies
h/o paranoia. She denies hallucinations. She endorses feelings 
of
guilt and acting out on these feelings by restricting po, 
staying
up too late (associated with thought that she does not deserve 
to
go to sleep), cutting and scratching herself. She reports h/o
weight loss during a period of more extensive restricting. 
Denies
restricting recently and reports that appetite is intact. She
reports decline in ability to concentrate on academics in the
setting of intense feelings related to relationships. At other
times, when she is less social, she does better academically. 
She
endorses ongoing SI and urges to self-harm.

Please refer to SW note for additional collateral from 
outpatient
therapist. Briefly, pt reported SI with thoughts about 
overdosing
on medication or cutting herself with her Xacto knife, recent
cutting/scratching, and minimal protective factors. "

------------------
------------------

On interview today patient reports that she ___ suffered from
depression and anxiety since ___ grade. Last period of time when
she was not depressed was from ___ - ___ during which
time she found out she was accepted to ___ for technical
theatrics. Starting ___ she moved to ___ from ___  
to
start college and reports difficulty with transition over these
past few months resulting in current depressive episode. Primary
stressor she says is social interactions. She describes a cycle
of getting close to others -> becoming "dependent" ->  
subsequent
guilty ruminations for dependency -> isolating -> further 
fueling
her depression. She starts her depression consists of 
hypersomnia
"I sleep as much as I can", decreased interest "I used to be
interested in school, now even that I am not interested in",
guilt "about everything".. "that I am a bad friend", and poor
appetite. She also endorses hx of restrictive eating, does not
feel like restricting at the moment, no history of bulimia. 

In terms of suicidality, she states that over the past few 
months
she ___ intermittently had thoughts of "not wanting to live" "I
have a vague sense of wanting to die" but that for the past 
weeks
"it feels very urgent". Denies attempt to take her life - "I
never had a clear plan, but I sometimes wonder how I would do it
… I have art supplies such as an exacto knife". Does endorse hx
of self injurious behavior via cutting, last cut 2 weeks ago.
States she typically uses fine tooth comb. Denies feeling
suicidal at the moment. Curious about anticipated length of 
stay.
Denies HI/AVH. Does not endorse manic or psychotic sxs. 

Reports strained relationship with family. Mother is substance
user, sent to detox during ___ grade during which time patient
started to have issues with dependence and interpersonal
relationships. Father deceased from heart attack. Older brother
studying at ___ , however not quite a close relationship. 

She reports that typically what gives her joy is doing well in
school but recently this ___ not even given her joy. Reports 
that
another period of happiness was from ___ - ___ grade where she
took pride in her school and work. She is currently not in a
relationship. States she ___ a few close friends/ roommates but
unable to appreciate further details at this time. States she
likes to be left alone. Unwilling to provide contact information
for mother, brother at this time. Had psychiatrist in ___ 
for
___ years prior to college move- she does not remember name or
number of this person at this time. 

------

Collateral from ___ ___ Note:

"Collateral Contact:
Per ___, ___ Behavioral Health

Reports pt came in for an intake for therapy today and reported
chronic SI for a while but increased acute SI for the past 3 
days
with 2 plans and some internet, both plans accessible. Plans are
to OD on her prescribed medication and to cut herself with her
exacto knife she uses for ___ and ___. For the past 3 days 
pt
reported having a "strong urgency to not be here," and states 
she
___ been unable to stop thinking about wanting to die. Pt also
reported she was not afraid of death and ___ been self harming 
by
cutting or using a fine tooth comb to scratch herself. Pt
expressed she felt relieved about plan to go to the hospital.

Pt ___ very few supports and a "stressful family situation."
Reported that her mom ___ hx of substance use and student pt ___
been used to being on the other side of hospitalization with her
mom being admitted. Pt ___ never been hospitalized before, no hx
of attempts. Hx of OP treatment. Pt saw psychiatrist for first
time on ___ at ___, Dr ___, currently prescribed
Escitalopram 20mg.

Pt is a freshman, currently studying ___ and
___.

Will need re-entry meeting scheduled if discharged. "

-----------

 
Past Medical History:
- Patient ___ hx of restrictive eating. No history of 
binging/purging. 
 
Social History:
___
Family History:
Mother is substance user, sent to detox during ___ grade during 
which time patient started to have issues with dependence and 
interpersonal
relationships. Father deceased from heart attack. Older brother
studying at ___ , however not quite a close relationship. 

 
Physical Exam:
ON ADMISSION 

GENERAL
- HEENT: 
     - normocephalic, atraumatic
     - moist mucous membranes, oropharynx clear, supple neck
     - no scleral icterus
- Cardiovascular: 
     - regular rate and rhythm, S1/S2 heard, no 
       murmurs/rubs/gallops           
     - distal pulses ___ throughout
- Pulmonary: 
     - no increased work of breathing
     - lungs clear to auscultation bilaterally
     - no wheezes/rhonchi/rales
- Abdominal: 
     - non-distended, bowel sounds normoactive
     - no tenderness to palpation in all quadrants
     - no guarding, no rebound tenderness
- Extremities: 
     - warm and well-perfused
     - no edema of the limbs
- Skin: 
     - no rashes or lesions noted

NEUROLOGICAL
- Cranial Nerves:
     - I: olfaction not tested
     - II: PERRL 3 to 2 mm, both directly and consentually; 
brisk
bilaterally, VFF to confrontation
     - III, IV, VI: EOMI without nystagmus
     - V: facial sensation intact to light touch in all
distributions
     - VII: no facial droop, facial musculature symmetric and 
       ___ strength in upper and lower distributions, 
bilaterally
     - VIII: hearing intact to finger rub bilaterally
     - IX, X: palate elevates symmetrically
     - XI: ___ strength in trapezii and SCM bilaterally
     - XII: tongue protrudes in midline
- Motor: 
     - normal bulk and tone bilaterally
     - no abnormal movements, no tremor
     - strength ___ throughout
- Sensory: 
     - no deficits to fine touch throughout
- DTRs: 
     - 2 and symmetrical throughout
- Coordination: 
     - normal on finger to nose test, no intention tremor noted
- Gait: 
     - good initiation
     - narrow-based, normal stride and arm swing
     - able to walk in tandem without difficulty
     - Romberg absent

Cognition:
 Wakefulness/alertness: alert
 *Attention: MOYB intact
 *Orientation: oriented to person, place, time, situation
 *Memory: ___ registration and ___ recall
 *Fund of knowledge: names current and recent presidents
 Calculations: $1.75 = 7 quarters
 Abstraction: apple/orange - both fruit; watch/ruler - both
measure
 *Speech: spontaneous, normal rate, soft volume, normal prosody
and articulation
 *Language: fluent without paraphasic errors

MENTAL STATUS:
Appearance: appears younger than stated age, dressed in hospital
gown, proper hygiene, with short hair,  
Attitude: cooperative, engaged, friendly
Behavior: normal eye contact, no psychomotor agitation or
retardation
Speech: soft spoken, normal rate and tone
Mood: "ok, not great"
Affect : anxious, restricted, stable, appropriate
 *Thought process / *associations: linear with intact
associations
 *Thought Content: endorses passive SI however no intent or plan
at the moment, denies HI
 *Judgment and Insight: fair/good

ON DISCHARGE

Mental Status:
Appearance: appears younger than stated age, dressed in hospital
gown, proper hygiene, with short hair,  
Attitude: cooperative, engaged, friendly
Behavior: normal eye contact, no psychomotor agitation or
retardation
Speech: soft spoken, normal rate and tone
Mood: "on the rise"
Affect : less anxious, less restricted, stable, appropriate
 *Thought process / *associations: linear with intact
associations
 *Thought Content: denies SI/HI
 *Judgment and Insight: fair/good

Cognition: 
-Wakefulness/alertness: awake and alert
-Attention: grossly intact
-Orientation: grossly intact
-Memory: grossly intact
-Language: fluent ___ speaker, no paraphasic errors

 
Pertinent Results:
___ 07:40PM   GLUCOSE-74 UREA N-12 CREAT-0.6 SODIUM-142 
POTASSIUM-4.1 CHLORIDE-103 TOTAL CO2-26 ANION GAP-13
___ 07:40PM   ALT(SGPT)-9 AST(SGOT)-20 ALK PHOS-62 TOT 
BILI-<0.2
___ 07:40PM   CALCIUM-9.9 PHOSPHATE-4.1 MAGNESIUM-2.3*
___ 07:40PM   TSH-1.5
___ 07:40PM   TSH-1.5
___ 07:40PM   Trep Ab-NEG
___ 02:50PM URINE  HOURS-RANDOM
___ 02:50PM URINE  HOURS-RANDOM
___ 02:50PM URINE  HOURS-RANDOM
___ 02:50PM URINE  UCG-NEGATIVE
___ 02:50PM URINE  UHOLD-HOLD
___ 02:50PM URINE  GR HOLD-HOLD
___ 02:50PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 12:20PM   GLUCOSE-92 UREA N-11 CREAT-0.6 SODIUM-139 
POTASSIUM-4.1 CHLORIDE-105 TOTAL CO2-24 ANION GAP-10
___ 12:20PM   estGFR-Using this
___ 12:20PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 12:20PM   WBC-5.0 RBC-4.23 HGB-11.4 HCT-36.4 MCV-86 
MCH-27.0 MCHC-31.3* RDW-13.8 RDWSD-43.4
___ 12:20PM   NEUTS-57.4 ___ MONOS-7.2 EOS-0.8* 
BASOS-0.4 IM ___ AbsNeut-2.89 AbsLymp-1.71 AbsMono-0.36 
AbsEos-0.04 AbsBaso-0.02
___ 12:20PM   PLT COUNT-200
 
Brief Hospital Course:
LEGAL & SAFETY:  

On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. They were also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

PSYCHIATRIC:

___ is a ___ y/o single Caucasian female college student 
with h/o MDD, unspecified anxiety disorder, PTSD,?borderline 
personality traits, admitted to inpatient psychiatry by way of 
___ after reporting worsening SI with plan/intent at preceding ___ 
psychology intake appointment. On admission interview, patient 
reported longstanding h/o depressed mood and anxiety associated 
with fear of losing social
relationships. Reports period of stability in mood from ___ - 
___ grade where she denied having many social interactions and 
was able to fully devote herself to school, which seems to be 
one of the few things she ___ previously enjoyed. Also period of 
stability from ___ during which time she was 
accepted to ___ and reports feeling validated. However 
since ___ reporting emergence of depression, marked by 
profound neuro-vegetative symptoms, increasing anxiety centered
around losing relationships with friends culminating in SI with 
"strong urgency not to be here" with consideration of plan 
including cutting herself with exacto knife. ___ not acted on 
these plans and appears intent is of reduced intensity. Denied 
associated substance use or primary medical issues. Cognitive 
exam was intact. MSE notable for petite, younger than age 
appearing woman, soft-spoken, please however with anxious 
constricted affect. Denied AVH, HI. 

Diagnostic presentation c/f major depressive disorder, current 
depressive episode and unspecified anxiety disorder that seems 
to primarily be centered around interpersonal relationships and 
fear of abandonment. No evidence of generalized anxiety disorder 
at this time. Probable diagnosis of PTSD as well given complex 
trauma history related to her upbringing - father deceased, 
mother with  substance use issues propagating issues with 
attachment we see today. Finally, we also thought it was 
important to consider borderline personality traits in this 
patient given issues with attachment, self injurious tendencies, 
and affective instability. 

In terms of interventions, we restarted her home medication 
(escitalopram 20 mg) and then uptitrated to 25 mg (EKG QTC wnl, 
431) however decided to trial different antidepressant given 
that patient had been experiencing depressive symptoms on 
maximum dose for the past several months. As such, escitalopram 
was discontinued and we started by trialing Zoloft 50 mg QAM and 
Lamictal 12.5 mg QPM which we added to mitigate her affective 
instability. Psychoeducation was provided on depression and 
Uptodate Patient Education handout provided on depression/SSRIs. 
Psychoeducation was also provided on medication adherence and 
suicide prevention. We also coordinated with her outpatient 
mental health care providers to set up robust aftercare - upon 
discharge she had a re-entry appointment with ___ , f/u 
psychiatry appointment with ___ psychiatrist Dr. ___, 
f/u psychology appointment with ___, and f/u 
appointment with her PCP. 

Over each day of her inpatient stay, patient's  affect became 
brighter and she denied having thoughts of SI while on the 
inpatient unit. She remained pleasant on the unit, was visible 
in milieu interacting with select peers, and attended groups. On 
day of discharge she was goal directed (wanted to re-prioritize 
focus on school), future-oriented & motivated, and reported 
positive therapeutic alliance with her BU mental health 
providers who we coordinated aftercare with. 

SUBSTANCE USE DISORDERS: no active issues
 
MEDICAL
# Restrictive Eating - discussed with patient dangers of 
restrictive eating. Explored themes of guilt and self punishment 
leading to restrictive eating. Encouraged patient to explore 
these issues further with her PCP. Apart from supportive 
psychotherapy and motivational interviewing no acute 
interventions done for this issue at this time. 
 
PSYCHOSOCIAL
#GROUPS/MILIEU: 
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient attended many groups including project groups. She was 
often seen in day room, socializing with select peers, on TV, 
and playing board games. Overall she was a positive presence on 
the milieu. 

#COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Psychiatrist  - Dr. ___ , contacted and clinical 
update provided. ___ follow up appointment scheduled for ___ 
___ @ 2:00 pm. 

Therapist - Dr. ___ , contacted and discharge summary 
faxed for clinical update. ___ follow up appointment scheduled 
for ___ @ 2:30 pm.

PCP- ___ appointment with ___, NP, ___ @ 
2:15.

#INTERVENTIONS
Started:
Lamictal 25 mg QHS for depression , Sertraline 50 mg QAM for 
affective instability, emotional regulation

Discontinued:
Escitalopram 20 mg as patient was continuing to express 
depressive sxs on maximum dose.

- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: with psychiatrist Dr. ___ 
___, therapist Dr. ___, and PCP ___ NP
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
motivational interviewing and supportive psychotherapy, coping 
skills, psychoeducation on suicide 
-Guardianships: none
 
RISK ASSESSMENT & PROGNOSIS

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself longstanding, passive thoughts 
of "not wanting to live" "I have a
vague sense of wanting to die" with recent feelings of "urgency" 
and consideration of plans of committing suicide including using 
exacto knife and overdosing on medications. Her static risk 
factors at that time Caucasian race, history of self injurious 
behavior, chronic mental illness, trauma hx, family history of 
suicide attempt. Modifiable risk factors including current 
suicidal ideation, minimal engagement with outpatient treatment, 
limited social supports, hopelessness, social withdrawal. These 
modifiable risk factors were addressed by medication changes, 
psychoeducation, supportive psychotherapy, motivational 
interviewing, and connection with outpatient mental health 
treatment at ___ upon discharge. Finally the patient had many 
protective risk factors including appropriate insight, 
help-seeking nature, no irritability/agitation, no 
rage/anger/revenge, good problem solving skills, and no SI on 
discharge. 

 
Medications on Admission:
1. Escitalopram 20 mg PO QAM
 
Discharge Medications:
1.  LamoTRIgine 25 mg PO QPM  
2.  Sertraline 50 mg PO QAM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder, recurrent, severe, no psychotic 
features
PTSD 
social anxiety
R/o borderline personality traits

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___